US08664258B2
Preparation of tert-butyl 2-(4-(3-methoxybenzamido)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate
Tert-butyl 2-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate (265 mg, 797.2 μmol), m-anisoyl chloride (168 μl, 1.5 eq) and triethylamine (266.7 μl, 2.4 eq) were taken up in 20 mL of dichloromethane in a round bottomed flask and stirred at 22° C. for 18 hr. The reaction was then concentrated and purified by column chromatography (40-75% ethyl acetate in hexane) to afford the title compound as a pale yellow oil in 73.9% yield LCMS (%)=467 (M+H, 100). 1H NMR (400 MHz, CDCl3) δ ppm 1.43 (s, 9 H), 3.42 (q, J=5.56 Hz, 2 H), 3.78 (s, 3 H), 3.88 (s, 3 H), 4.04 (t, J=4.80 Hz, 2 H), 6.28 (d, 1 H), 7.01 (d, J=9.09 Hz, 1 H), 7.10 (dt, J=4.55, 2.53 Hz, 1 H), 7.38-7.41 (m, 2 H), 7.43-7.45 (m, J=3.03 Hz, 1 H), 7.54 (d, J=2.02 Hz, 1 H), 7.66-7.71 (m, 1 H), 7.76 (s, 1 H).

reactant | Tert-butyl 2-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate | 797.2 μmol, 265 mg | NC1=CC(=C(OCCNC(OC(C)(C)C)=O)C=C1)C1=CC=NN1C | C17H24N4O3
reactant | m-anisoyl chloride | 168 μl, 1.5 eq | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | triethylamine | 266.7 μl, 2.4 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl 2-(4-(3-methoxybenzamido)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate | 73.9% yield | COC=1C=C(C(=O)NC2=CC(=C(OCCNC(OC(C)(C)C)=O)C=C2)C2=CC=NN2C)C=CC1 | C25H30N4O5
